US05731299
III. Synthesis of 3-Amino-1-phosphonopropanesulfonic Acid
The hydrogenation of 2-cyano-1-phosphonoethanesulfonate is carried out using the hydrogenation technique of Freifelder (J. Am. Chem. Soc., 82, 2386 (1960)). The cyano compound (2.15 g; 0.01 mole) is placed in 20 ml of 10% methanolic ammonia. Rhodium on alumina (5%) catalyst (0.5 g) is added, and the mixture is hydrogenated at 40 PSI on a Parr apparatus for several hours (until uptake of hydrogen is complete). The catalyst is filtered off, and the filtrate is evaporated dry. The product is purified by dissolving the residue in water, adding ethanol to give a precipitate, and collecting the solids by filtration. Further purification is accomplished by again recrystallizing from water/ethanol.

reactant | 2-cyano-1-phosphonoethanesulfonate | C(#N)CC(S(=O)(=O)[O-])P(=O)(O)O
reactant | hydrogen | [H][H] | H2
solvent | ammonia | 20 ml | N | H3N
catalyst | Rhodium on alumina | [Rh] | Rh
product | 3-Amino-1-phosphonopropanesulfonic Acid | NCCC(S(=O)(=O)O)P(=O)(O)O | C3H10NO6PS
